US07109234B2
Stage 2: 1-(3-Triphenylmethyloxy-2-(S)-methoxy-propylthio)-2-methoxybenzene (XIII-1)
34.8 g (0.076 mol) of 1-(3-triphenylmethyloxy-2-(S)-hydroxypropylthio)-2-methoxybenzene (XII-1), in solution in 50 ml of distilled tetrahydrofuran, are introduced dropwise into a round-bottomed flask, kept under an inert atmosphere, comprising a suspension of 3.5 g of sodium hydride (0.087 mol) in 30 ml of distilled tetrahydrofuran. The mixture is stirred at ambient temperature for 3 hours and then 5.1 ml (0.082 mol) of methyl iodide are added. After stirring at ambient temperature for 2 hours, the mixture is concentrated under reduced pressure and then the residue is taken up in dichloromethane. The solution obtained is cooled and then diluted with ice-cold water. The phases are separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are washed with water and with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel (eluent: dichloromethane/cyclohexane=70:30) to give 35.8 g (0.076 mol) of the title compound (XIII-1) in the form of an oil.

reactant | 1-(3-triphenylmethyloxy-2-(S)-hydroxypropylthio)-2-methoxybenzene | 0.076 mol, 34.8 g | C1(=CC=CC=C1)C(OC[C@@H](CSC1=C(C=CC=C1)OC)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28O3S
reactant | sodium hydride | 0.087 mol, 3.5 g | [H-].[Na+]
reactant | methyl iodide | 0.082 mol, 5.1 ml | CI | CH3I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-Triphenylmethyloxy-2-(S)-methoxy-propylthio)-2-methoxybenzene | 0.076 mol, 35.8 g, Yield: 100% | C1(=CC=CC=C1)C(OC[C@@H](CSC1=C(C=CC=C1)OC)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30O3S
